US06613775B1
Synthesis of Ethyl 8-(2,6-Dimethylbenzylamino)-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate
Ethyl 8-amino-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate (1.3 g, 5.6 mmol), 2,6-dimethylbenzyl chloride (0.9 g, 6.2 mmol), potassium carbonate (1.5 g, 11 mmol) and sodium iodide (0.1 g, 0.6 mmol) were added to acetonitrile (15 ml) and refluxed for 20 h. The solvent was evaporated under reduced pressure. The residue was dissolved in methylene chloride , washed twice with water and the organic layer was separated dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using heptane:ethyl acetate (2:1) as eluent gave 0.9 g (47%) of the title compound as an oil.

reactant | Ethyl 8-amino-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate | 5.6 mmol, 1.3 g | NC=1C=2N(C=C(C1)C)C(=C(N2)C(=O)OCC)C | C12H15N3O2
reactant | 2,6-dimethylbenzyl chloride | 6.2 mmol, 0.9 g | CC1=C(CCl)C(=CC=C1)C | C9H11Cl
reactant | potassium carbonate | 11 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.6 mmol, 0.1 g | [I-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Ethyl 8-(2,6-Dimethylbenzylamino)-3,6-dimethylimidazo[1,2-a]pyridin-2-carboxylate | 0.9 g, 47% | CC1=C(CNC=2C=3N(C=C(C2)C)C(=C(N3)C(=O)OCC)C)C(=CC=C1)C | C21H25N3O2
